US07622494B2
6-Bromo-N-methyl-N-(2-phenylethyl)-2,3,4,9-tetrahydro-1H-carbazol-1-amine hydrochloride salt was prepared from 6-bromo-N-(2-phenylethyl)-2,3,4,9-tetrahydro-1H-carbazol-1-amine hydrochloride salt (0.05 g, 0.12 mmol), diisopropylethyl amine (0.04 mL, 0.25 mmol) and methyl iodide (0.008 mL, 0.12 mmol) in THF (2.0 mL). The reagents were added to a round bottom flask and allowed to stir for 12 hrs. at room temperature under inert atmosphere. The solvent was evaporated, ethyl acetate was added (10 mL), the organics were washed with water (2.0 mL) and sat. NaCl (2.0 mL), dried over Na2SO4, filtered and evaporated to leave an oily residue. Purification by flash chromatography with gradient 10-50% ethyl acetate/hexanes eluent afforded a clear oil that was converted to the HCl salt to give a white solid (0.01 g, 20%). 1H-NMR (CDCl3): δ 8.30 (s, 1H), 7.53 (d, 2H), 7.38-7.10 (m, 5H), 6.89 (d, 1H), 4.09 (m, 1H), 3.04-2.95 (m, 1H), 2.90-2.80 (m, 2H), 2.70-2.55 (m, 3H), 2.48 (s, 3H), 2.11-1.99 (m, 2H), 1.70-1.60 (m, 2H).

reactant | 6-bromo-N-(2-phenylethyl)-2,3,4,9-tetrahydro-1H-carbazol-1-amine hydrochloride salt | 0.12 mmol, 0.05 g | Cl.BrC=1C=C2C=3CCCC(C3NC2=CC1)NCCC1=CC=CC=C1
reactant | diisopropylethyl amine | 0.25 mmol, 0.04 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | methyl iodide | 0.12 mmol, 0.008 mL | CI | CH3I
reactant | HCl | Cl | ClH
solvent | THF | 2.0 mL | C1CCOC1 | C4H8O
product | 6-Bromo-N-methyl-N-(2-phenylethyl)-2,3,4,9-tetrahydro-1H-carbazol-1-amine hydrochloride salt | Cl.BrC=1C=C2C=3CCCC(C3NC2=CC1)N(CCC1=CC=CC=C1)C | InChI=1S/C21H23BrN2.ClH/c1-24(13-12-15-6-3-2-4-7-15)20-9-5-8-17-18-14-16(22)10-11-19(18)23-21(17)20;/h2-4,6-7,10-11,14,20,23H,5,8-9,12-13H2,1H3;1H
